US08026236B2
B: 1-methyl-6-(4-(2-(1-(2-(pyrrolidin-1-yl)acetyl)piperidin-4-yl)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile
A mixture of 6-(4-(2-(1-(2-chloroacetyl)piperidin-4-yl)ethoxy)-3-(trifluoromethyl)phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile (25 mg), diisopropylethylamine (82 μL), and pyrrolidine (21 μL) in MeOH (1 ml) was stirred for 36 hours at room temperature. The mixture was purified by prep HPLC (acidic) to give the expected product (14 mg). 1H NMR (CD3OD) δ: 8.42 (s, 1H), 8.24-8.35 (m, 3H), 7.27 (d, 1H), 4.50 (d, 1H), 4.23 (t, 2H), 3.91-4.07 (m, 4H), 3.22-3.61 (m, 6H), 3.05 (t, 1H), 2.64 (t, 1H), 1.76-2.02 (m, 9H), 1.10-1.30 (m, 2H). MS m/z 541 (M+H).

reactant | 6-(4-(2-(1-(2-chloroacetyl)piperidin-4-yl)ethoxy)-3-(trifluoromethyl)phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 25 mg | ClCC(=O)N1CCC(CC1)CCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C24H23ClF3N5O2
reactant | diisopropylethylamine | 82 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyrrolidine | 21 μL | N1CCCC1 | C4H9N
solvent | MeOH | 1 ml | CO | CH4O
product | 1-methyl-6-(4-(2-(1-(2-(pyrrolidin-1-yl)acetyl)piperidin-4-yl)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 14 mg | CN1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)OCCC2CCN(CC2)C(CN2CCCC2)=O)C(F)(F)F)C#N | C28H31F3N6O2
